US07462620B2
Ethyl 2-(2,4-dioxo-4H-thieno[3,2-d][1,3]oxazin-1-yl)acetate
Sodium hydride (851 mg, 60% dispersion in oil) in dry N,N-dimethylformamide (DMF) (15 ml) was cooled under argon in an ice bath. A solution of 1H-thieno[3,2-d][1,3]oxazine-2,4-dione (3 g) in DMF (10 ml) was added over ca 20 min. The reaction mixture was stirred for 30 min at room temperature, then recooled in an ice bath. Ethyl iodoacetate (4.55 g) was added and the mixture stirred at room temperature for ca 2 h. The solution was concentrated to about half volume and cooled in an ice bath. Water was added (ca 200 ml). After 10 min the precipitate was filtered off and washed with water and hexane and dried at 40° C. in vacuo overnight. The title compound was obtained as a white solid (3.62 g, 80%). 1H-NMR (CDCl3) δ 1.30 (3H, t), 4.28 (2H, q), 4.71 (2H, s), 6.77 (1H, d), 7.87 (1H, d). (APCI+) Found (M+1)=256, C10H9NO5S requires 255.

reactant | Sodium hydride | 851 mg | [H-].[Na+]
reactant | 1H-thieno[3,2-d][1,3]oxazine-2,4-dione | 3 g | N1C(OC(C2=C1C=CS2)=O)=O | C6H3NO3S
reactant | Ethyl iodoacetate | 4.55 g | ICC(=O)OCC | C4H7IO2
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | DMF | 10 ml | CN(C=O)C | C3H7NO
product | Ethyl 2-(2,4-dioxo-4H-thieno[3,2-d][1,3]oxazin-1-yl)acetate | O=C1OC(C2=C(N1CC(=O)OCC)C=CS2)=O | C10H9NO5S
